US07230031B2
Ethyl {7-[4-benzyloxy-3-(4-fluorobenzyl)phenoxy]-6-methylindan-4-yloxy}acetate
The title compound was prepared in a similar manner to those described in Reference Example 11 using 7-[4-benzyloxy-3-(4-fluorobenzyl)phenoxy]-6-methylindan-4-ol instead of 2-hydroxy-5-(5-methyl-7-nitroindan-4-yloxy) benzaldehyde and using ethyl bromoacetate instead of benzyl bromide.

reactant | 7-[4-benzyloxy-3-(4-fluorobenzyl)phenoxy]-6-methylindan-4-ol | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C(C=C(C=3CCCC23)O)C)C=C1)CC1=CC=C(C=C1)F | C30H27FO3
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl {7-[4-benzyloxy-3-(4-fluorobenzyl)phenoxy]-6-methylindan-4-yloxy}acetate | C(C1=CC=CC=C1)OC1=C(C=C(OC=2C(=CC(=C3CCCC23)OCC(=O)OCC)C)C=C1)CC1=CC=C(C=C1)F | C34H33FO5
